Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Bactrim
 
Attending: ___
 
Chief Complaint:
fever
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with PMH RA, pulmonary fibrosis, HTN, HLD, p/w fever which 
started this morning. This morning when her daughter was 
assisting her with her ADLs, she noticed that she was warm with 
generalized weakness and found her to have a fever to 101. She 
has been having worsening joint pain in hands and hips/knees, 
but she denies having any one joint that is worse than the 
others. She also reports having baseline nasal congestion. 
Denies rhinorrhea, sore throat, myalgias, headaches, CP/SOB, 
headache, focal weakness/numbness, dysuria/frequency. No sick 
contacts. 

Of note the patient did receive influenza vaccine this year as 
well as pneumovax. In ___, she went to ED and was treated 
for bronchitis with Zpack. The follow up CXR from that visit did 
not show evidence of acute pneumonia.

In the ED, initial vitals ___ 16 95% ra 
Labs notable for WBC of 10.4 with N:86.9 L:9.4 with a Chem7 WNL. 
Influenza A was sent. The pt underwent a CXR that prelim read 
showed Grossly similar appearance of diffuse pulmonary fibrosis 
and bronchiectasis.  Superimposed infection cannot be excluded. 
She received tamiflu 75mg.

Vitals prior to transfer: 99.6 94 110/50 32 100% 

Currently, the patient reports that she feels feverish, but is 
denying any muscle aches.
  
ROS: +muscle aches, per HPI, denies night sweats, headache, 
vision changes, rhinorrhea, congestion, sore throat, cough, 
shortness of breath, chest pain, abdominal pain, nausea, 
vomiting, diarrhea, constipation, BRBPR, melena, hematochezia, 
dysuria, hematuria.
 
Past Medical History:
CAD s/p MI ___ c/b LV thrombus and CVA, with residual word 
finding difficulties 
AF: off Coumadin per cardiologist's request 
Rheumatoid arthritis  
HTN  
GERD  
Hypothyroidism  
Hypercholesterolemia  
 
Social History:
___
Family History:
Sister with MI in ___.
 
Physical Exam:
ADMISSION EXAM:
===========================
VS - 98.2 138/58 86 86 22 100% 2L  
GENERAL - cachectic appearing female in NAD, comfortable, 
appropriate  
HEENT - NC/AT, PERRLA, EOMI, sclerae anicteric, dry MM, OP clear 
 
NECK - supple, no thyromegaly, no JVD,   
LUNGS - kyphosis, Scattered expiratory wheezing, resp unlabored, 
no accessory muscle use  
HEART - RR +III/VI SEM loudest at LUSB, nl S1-S2  
ABDOMEN - NABS, soft/NT/ND, no masses or HSM, no 
rebound/guarding  
EXTREMITIES - WWP, no c/c/e, 2+ peripheral pulses (radials, 
DPs), ulnar deviation of hands, R ___ and ___ MCP swollen that 
as per patient is her baseline. b/l hand deformities consistent 
with RA  
SKIN - no rashes or lesions  
LYMPH - no cervical, axillary, or inguinal LAD  
NEURO - awake, A&Ox3, CNs II-XII grossly intact, muscle strength 
___ throughout, sensation grossly intact throughout, DTRs 2+ and 
symmetric, cerebellar exam intact

DISCHARGE EXAM:
==========================
VS - Tm98.6, Tc:97.5, 112/72, 64, 18, 94%RA, small BM yesterday 
and one large BM this morning   
GENERAL - cachectic appearing female in NAD, comfortable, 
appropriate  
HEENT - NC/AT, PERRLA, EOMI, sclerae anicteric, dry MM, OP clear 
 
NECK - supple, no JVD,   
LUNGS - kyphosis, ctab, resp unlabored, no accessory muscle use  

HEART - RR +III/VI SEM loudest at LUSB, nl S1-S2  
ABDOMEN - NABS, soft/NT/ND, no masses or HSM, no 
rebound/guarding  
EXTREMITIES - WWP, no c/c/e, 2+ peripheral pulses (radials, 
DPs), ulnar deviation of hands, R and L ___ and ___ MCP swollen 
that as per patient is her baseline. b/l hand deformities 
consistent with RA. R malleolus ulcer stable. Sacral ulcer stage 
II and stable without any purulence or discharge. 
SKIN - pruritic erythematous, blanching, papular-macular rash on 
back extending to b/l buttocks, and excoriations along lateral R 
buttock
NEURO - awake, A&Ox3, CNs II-XII grossly intact, muscle strength 
___ throughout, sensation grossly intact throughout, DTRs 2+ and 
symmetric, cerebellar exam intact  

 
Pertinent Results:
ADMISSION LABS:
___ 10:40AM BLOOD WBC-10.4# RBC-3.68* Hgb-12.0 Hct-37.3 
MCV-101* MCH-32.6* MCHC-32.2 RDW-14.5 Plt ___
___ 10:40AM BLOOD Glucose-123* UreaN-22* Creat-0.8 Na-141 
K-4.1 Cl-103 HCO3-29 AnGap-13
___ 10:57AM BLOOD Lactate-1.5

MICRO:
___ BLOOD CULTURE Blood Culture, Routine-PENDING 

___ URINE URINE CULTURE- NO GROWTH 
___ BLOOD CULTURE Blood Culture, Routine-PENDING 

___ BLOOD CULTURE Blood Culture, Routine-PENDING 

___ BLOOD CULTURE Blood Culture, Routine-PENDING 

___
   DIRECT INFLUENZA A ANTIGEN TEST (Final ___: 
      Negative for Influenza A. 

   DIRECT INFLUENZA B ANTIGEN TEST (Final ___: 
      Negative for Influenza B. 
___ 11:05 am BLOOD CULTURE

   Blood Culture, Routine (Preliminary): 
      MICROCOCCUS/STOMATOCOCCUS SPECIES. 
         Isolated from only one set in the previous five days. 
         ___ MORPHOLOGIES. 
      STAPHYLOCOCCUS, COAGULASE NEGATIVE. 
         Isolated from only one set in the previous five days. 
         SENSITIVITIES PERFORMED ON REQUEST.. 

   Aerobic Bottle Gram Stain (Final ___: 
      GRAM POSITIVE COCCI. 
      IN PAIRS AND CLUSTERS. 
___ BLOOD CULTURE Blood Culture, Routine-PENDING 


IMAGING:
___ CXR: Grossly similar appearance of diffuse pulmonary 
fibrosis and bronchiectasis. Superimposed infection cannot be 
excluded.

___ EKG
Sinus tachycardia. Baseline artifact. Left ventricular 
hypertrophy. 
Non-specific ST-T wave repolarization abnormalities throughout. 
Compared to the previous tracing of ___ the rate is faster. 
  Intervals Axes 
Rate PR QRS QT/QTc P QRS T 
102 144 82 326/399 13 -9 162 

DISCHARGE LABS:
___ 07:40AM BLOOD WBC-7.2 RBC-3.45* Hgb-11.4* Hct-35.4* 
MCV-103* MCH-33.0* MCHC-32.2 RDW-14.4 Plt ___
___ 10:40AM BLOOD Neuts-86.9* Lymphs-9.5* Monos-2.7 Eos-0.6 
Baso-0.3
___ 08:30AM BLOOD Glucose-92 UreaN-22* Creat-0.8 Na-137 
K-4.2 Cl-99 HCO3-30 AnGap-12
___ 07:40AM BLOOD Calcium-8.7 Phos-5.4*# Mg-2.0
___ 08:30AM BLOOD TSH-1.___ y/o F h/o RA on mtx, HTN, HLD who p/w fevers, chills, 
myalgias.

ACTIVE ISSUES:
===============================
# Fever:  As per patient, did receive influenza vaccine and 
rapid flu test was negative which makes an influenza diagnosis 
unlikely. CXR was performed in the ED that showed pulmonary 
fibrosis and bronchiectasis similar to previous but superimposed 
infection could not be excluded. With the patient receiving 
methotrexate weekly for her RA, she is immunosuprressed. Blood 
culture ___ bottle) from ___ grew micrococcus/stomatoccus 
species which is most likely a contaminant.
Patient initially started on vancomycin on ___ but 
discontinued on ___ after blood culture speciated. UA on 
admission was positive for leuks and 29 WBC but urine culture 
was contaminated, repeat UA on ___ also with posiive leuks and 
17 WBC but urine culture was with no growth and patient without 
any UTI symptoms throughout hospitalization. Stated that her 
chronic joint pain and swelling was at baseline. Clinically, 
patient improved and had no further fevers. Her fever on 
admission is most likely secondary to a viral syndrome that has 
now resolved. At discharge, she was feeling well with stable 
vital signs.    

# back rash: began on ___ and very pruritic. Appears 
macular-papular and extending to her buttocks. Likely secondary 
to heat rash as patient mostly laying on back throughout the day 
with significant perspiration. Sarna lotion was applied with 
good relief. Will need to keep area cooled and dried, and thus 
will likely improve once ambulation improves with ___ at rehab.  

# stage II sacral ulcer and R medial malleolus ulcer: appears 
stable without signs of active infection. Daily wound care 
provided. 

CHRONIC ISSUES:
==============================
# a.fib: As per OMR the patient is not anticoagulated as per 
cardiologists request. She was rate controlled with metoprolol.

# Neck pain/DJD: She was continued on fentanyl patch, vicodin 
was replaced with oxycodone and tylenol PRN while admitted. 
Patient did not request oxycodone/tylenol and pain appeared to 
be well controlled on just the fentanyl patch. Discharged with 
instructions to only continue the fentanyl patch for pain. 

# RA c/b pulmonary fibrosis: patient weaned off O2 and satting 
well on RA. Her methotrexate was not given on ___. She will need 
to restart her weekly methotrexate on ___.

# HTN: She was continued on home captopril.

# HLD: She was continued on home atorvastatin and aspirin

# h/o CVA: She was continued on aspirin 81mg.

# Hypothyroidism: She was continued on her home levothyroxine. 
TSH was 1.7

# GERD: Since esomeprazole was nonformulary, she was 
administered omeprazole while in house. Her esomeprazole was 
continued on discharge.

# Depression: She was continued on her home citalopram.

# Glaucoma: She was continued on her home brimonidine drops.

TRANSITIONAL ISSUES:
===============================
-patient did not receive her weekly MTX on ___, please resume 
MTX on ___
-please ensure back rash is improving
-while hospitalized patient's pain was well controlled with only 
fentanyl patch, she was instructed to discontinue vicodin. 
Please reassess pain and adjust pain medications as appropriate
-please f/u with pending blood cultures
# CONTACT: ___ ___ 
# FULL CODE
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 80 mg PO DAILY 
2. Brimonidine Tartrate 0.15% Ophth. 1 DROP BOTH EYES Q12H 
3. Captopril 25 mg PO TID 
hold sbp<100 
4. Citalopram 20 mg PO DAILY 
5. esomeprazole magnesium *NF* 40 mg Oral daily 
6. Fentanyl Patch 50 mcg/h TP Q72H 
7. FoLIC Acid 1 mg PO DAILY 
8. Hydrocodone-Acetaminophen (5mg-500mg) 1 TAB PO BID 
hold for sedation 
9. Levothyroxine Sodium 50 mcg PO DAILY 
10. Methotrexate 7.5 mg PO 1X/WEEK (TH) 
11. Metoprolol Tartrate 12.5 mg PO BID 
hold for sedation RR<10 
12. Ascorbic Acid ___ mg PO DAILY 
13. Aspirin 81 mg PO DAILY 
14. Calcium 600 *NF* (calcium carbonate) 600 mg (1,500 mg) Oral 
BID 

 
Discharge Medications:
1. Ascorbic Acid ___ mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. Atorvastatin 80 mg PO DAILY 
4. Brimonidine Tartrate 0.15% Ophth. 1 DROP BOTH EYES Q12H 
5. Captopril 25 mg PO TID 
hold sbp<100 
6. Citalopram 20 mg PO DAILY 
7. Fentanyl Patch 50 mcg/h TP Q72H 
8. FoLIC Acid 1 mg PO DAILY 
9. Levothyroxine Sodium 50 mcg PO DAILY 
10. Metoprolol Tartrate 12.5 mg PO BID 
hold for SBP<100 or HR<60 
11. Calcium 600 *NF* (calcium carbonate) 600 mg (1,500 mg) Oral 
BID 
12. Esomeprazole Magnesium *NF* 40 mg ORAL DAILY 
13. Methotrexate 7.5 mg PO 1X/WEEK (TH) 
14. Docusate Sodium 100 mg PO BID constipation 
15. Polyethylene Glycol 17 g PO DAILY 
16. Sarna Lotion 1 Appl TP QID:PRN itching 
17. Senna 2 TAB PO DAILY constipation 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary: viral syndrome

Secondary: atrial fibrillation, chronic neck pain, rheumatoid 
arthritis complicated by pulmonary fibrosis, hypertension, 
hypothyroidism, depression

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear ___,

___ was a pleasure taking care of you during your stay at ___ 
___. You were admitted to the 
hospital because you were having fevers and felt generally weak 
at home. While here in the hospital, we determined that you did 
NOT have the flu. We also looked for other types of infections. 
A Chest Xray did not show pneumonia. Your urine did not show any 
infection. Your blood grew small amount of a bacteria but it is 
most likely a contaminant.

You had a rash on your back which improved with ambulation. 
Please make sure you keep your back dried and prevent sweating 
around that area. Use sarna lotion as needed for itchiness. We 
recommend that you use sheets without bleach or dyes in case 
this was contributing.

You improved clinically even after we discontinued your 
antibiotics, which means that you likely had a viral infection 
that cleared. You will need to go to reab to help improve your 
strength. 

Please make sure you follow up with your primary care physician 
and your ___. 
 
Followup Instructions:
___